US07345056B2
Acetic acid 2-[12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-4-yl]-1,1-dimethyl-2-oxo-ethyl ester
Prepared by acylation of 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene using 2-acetoxyisobutyryl chloride.

reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CCC2 | C15H16ClN3O2S
reactant | 2-acetoxyisobutyryl chloride | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
product | Acetic acid 2-[12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-4-yl]-1,1-dimethyl-2-oxo-ethyl ester | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C3=CN(N=C3CC1CCC2)C(C(C)(C)OC(C)=O)=O | C21H24ClN3O5S
